US08426446B2
Step 2. Synthesis of 4-(bromomethyl)-3-(trifluoromethyl)benzoyl chloride
1.00 g of 4-(bromomethyl)-3-(trifluoromethyl)benzoic acid was dissolved in dichloromethane (q.s.), then 2 drops of anhydrous N,N′-dimethylformamide were added. Then 2 ml of oxalyl chloride was added dropwise to the mixture. The reaction mixture was reacted at room temperature for 5 h, and concentrated to provide the product.

reactant | 4-(bromomethyl)-3-(trifluoromethyl)benzoic acid | 1.00 g | BrCC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H6BrF3O2
reactant | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | N,N′-dimethylformamide | 2 drops | CN(C)C=O | C3H7NO
product | 4-(bromomethyl)-3-(trifluoromethyl)benzoyl chloride | BrCC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C9H5BrClF3O
